US05827881
A! A 32% solution of sodium hydroxide (123 ml) was added to a mixture of glycin (50 g, 0.66 mole) and butyl bromide (75 ml, 0.66 mole) in methanol (600 ml) and water (600 ml), the reaction mixture was refluxed for 24 hours, then the solvend was evaporated under vacuum. The crude was dissolved in ethanol, the salts were filtered off 3 times, and the solvent was evaporated under vacuum. The resulting crude was purified by flash chromatography (eluent: chloroform/methanol/concentrated ammonia 6:4:0.5) yielding 36 g of N-butyl-glycine.

reactant | sodium hydroxide | 123 ml | [OH-].[Na+]
reactant | glycin | 0.66 mole, 50 g | NCC(=O)O | C2H5NO2
reactant | butyl bromide | 0.66 mole, 75 ml | C(CCC)Br | C4H9Br
solvent | methanol | 600 ml | CO | CH4O
solvent | water | 600 ml | O | H2O
product | N-butyl-glycine | 36 g | C(CCC)NCC(=O)O | C6H13NO2
